Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],3.87694186196
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.23682858085
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.55592161367
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[O:10][H:11].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.5725871159300007
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],4.11697857386
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.232030665919998
[C:1].[C:2][O:3][H:4]>>[C:1]#[C:2][O:3][H:4],-5.780136788049999
[H:1].[O:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],-2.59611970108
[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.15699120508
[C:1]#[C:2][C:3]([H:4])[O:5][O:6].[H:7]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6][H:7],-4.167996727119999
[H:10].[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8][H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10],-4.49632352549
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.54147235693
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[C:3],6.385713272359999
[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],4.54031390014
[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.1860980062
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11],3.87515388833
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9],4.51140312001
[H:1][C:2]#[C:3][O:6][H:7].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][H:7],-3.28493484269
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]1=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16],-3.11809057925
[H:1][O:2][C:3][C:5]([H:6])([H:7])[H:8].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-3.76407121489
[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.3753235301199975
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[H:6].[H:1][C:2]([H:3])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],2.5204419111300003
[C:1][C:2]#[C:3][O:4][C:5]#[C:6]>>[C:1].[C:2]#[C:3][O:4][C:5]#[C:6],6.78949316264
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.95818717437
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.67612076762
[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.62183367429
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.82140370447
[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-4.83817336822
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[O:10]1>>[H:1][O:2][C:3][O:10][C:8](=[C:4]=[C:5]([H:6])[H:7])[H:9],-0.455030986039
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.54899970809
